US08278473B2
A suspension of 1.0 g (3.71 mmol) of (E)-2-methyl-N-phenyl-3-(phenylthio)-2-propenamide, 0.81 ml of thionyl chloride, and 10 mg of DMF in 10 ml of toluene was refluxed for 1 hour and then concentrated under vacuum. The residue was dissolved in 5 ml of DMF and cooled in ice bath. To a solution of 241 mg of n-hexylthiol in 5 ml of DMF was added 90 mg of sodium hydride (60% in oil) under ice cooling and stirred for 5 minutes. The mixture was added portionwise to the above-described DMF solution of the residue under ice cooling and then stirred at room temperature for 1 hour. The reaction mixture was poured into water and extracted with tert-butyl methyl ether (three times). The combined organic layer was washed sequentially with water and a saturated NaCl solution, dried over anhydrous MgSO4, and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=20/1) to obtain 82 mg of n-hexyl 2-methyl-N-phenyl-3-(phenylthio)-2-propenimidothioate (hereinafter referred to as the present compound 47) and 114 mg of n-hexyl 3-(hexylthio)-2-methyl-N-phenyl-2-propenimidothioate (hereinafter referred to as the present compound 48).

reactant | (E)-2-methyl-N-phenyl-3-(phenylthio)-2-propenamide | 3.71 mmol, 1.0 g | C/C(/C(=O)NC1=CC=CC=C1)=C\SC1=CC=CC=C1 | C16H15NOS
reactant | thionyl chloride | 0.81 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 10 mg | CN(C)C=O | C3H7NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | n-hexyl 2-methyl-N-phenyl-3-(phenylthio)-2-propenimidothioate | 82 mg | CC(C(=NC1=CC=CC=C1)SCCCCCC)=CSC1=CC=CC=C1 | C22H27NS2
